US08133998B2
To a solution of 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid, (0.42 g, 2 mmol) in 1:1 DCM and DMF (10 mL) was added EDC (0.764 g, 4 mmol), DMAP (cat.) and 4-phenylpiperazine (0.324 g, 2 mmol). The reaction was stirred at RT overnight and DCM was removed. The resultant residue was partitioned between EtOAc (50 mL) and H2O (50 mL). The organic layer was dried over Na2SO4 and concentrated to provide 0.4 g 5-methyl-6-(4-phenylpiperazine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one, (yield: 57%).

reactant | 5-methyl-4-oxo-3,4-dihydrothieno[2,3-d]pyrimidine-6-carboxylic acid | 2 mmol, 0.42 g | CC1=C(SC=2N=CNC(C21)=O)C(=O)O | C8H6N2O3S
reactant | DCM | C(Cl)Cl | CH2Cl2
reactant | EDC | 4 mmol, 0.764 g
reactant | 4-phenylpiperazine | 2 mmol, 0.324 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
catalyst | DMAP | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-methyl-6-(4-phenylpiperazine-1-carbonyl)thieno[2,3-d]pyrimidin-4(3H)-one | 0.4 g, yield: 57% | CC1=C(SC=2N=CNC(C21)=O)C(=O)N2CCN(CC2)C2=CC=CC=C2 | C18H18N4O2S
